US08202873B2
{4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-carbamic acid methyl ester hydrochloride
Stir together 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (307 mg, 1.00 mmol), 4-(methoxycarbonylamino)benzene boronic acid (234 mg, 1.2 mmol), potassium carbonate (332 mg, 2.4 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.006 g, 0.005 mmol) and water (2 mL), in N,N-dimethylacetamide (4 mL) at room temperature under nitrogen, then heat at 120° C. for 5 hr. Cool to room temperature, purify using SCX chromatography and further purify using silica gel chromatography eluting with (5:95 to 15:85 methanol:DCM). Dissolve in acetonitrile, and add 2 M aq. HCl and water then lyophilize to give the title compound as light yellow powder (253 mg, 55%). MS (ES): m/z=422 [M+H].

reactant | 3′-chloro-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 1.00 mmol, 307 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C | C14H19ClN6
reactant | 4-(methoxycarbonylamino)benzene boronic acid | 1.2 mmol, 234 mg | COC(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO4
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 mL | O | H2O
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.005 mmol, 0.006 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4-[4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-carbamic acid methyl ester hydrochloride | 253 mg, 55% | Cl.COC(NC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C)=O | InChI=1S/C22H27N7O2.ClH/c1-16-18(14-25-27(16)2)15-28-10-12-29(13-11-28)21-20(23-8-9-24-21)17-4-6-19(7-5-17)26-22(30)31-3;/h4-9,14H,10-13,15H2,1-3H3,(H,26,30);1H
